* FILE: MMI_OAI31B.sp


* SPICE netlist for "MMI_OAI31B" (generated by MMI_SUE4.2.16)

*.SUBCKT MMI_OAI31B in0 in1 in2 in3 out 
M_0 out in0 net_1 gnd n W='1.54*1u' L=ln_min ad='arean(1.54,sdd)' 
+ as='arean(1.54,sdd)' pd='perin(1.54,sdd)' ps='perin(1.54,sdd)'
M_1_1 net_1 in1 gnd gnd n W='1.54*1u' L=ln_min ad='arean(1.54,sdd)' 
+ as='arean(1.54,sdd)' pd='perin(1.54,sdd)' ps='perin(1.54,sdd)'
M_2_1 net_1 in2 gnd gnd n W='1.54*1u' L=ln_min ad='arean(1.54,sdd)' 
+ as='arean(1.54,sdd)' pd='perin(1.54,sdd)' ps='perin(1.54,sdd)'
M_3_1 net_1 in3 gnd gnd n W='1.54*1u' L=ln_min ad='arean(1.54,sdd)' 
+ as='arean(1.54,sdd)' pd='perin(1.54,sdd)' ps='perin(1.54,sdd)'
M_4_1 out in0 vdd vdd p W='1.54*1u' L=lp_min ad='areap(1.54,sdd)' 
+ as='areap(1.54,sdd)' pd='perip(1.54,sdd)' ps='perip(1.54,sdd)'
M_5_1 out in1 net_7 vdd p W='1.155*1u' L=lp_min ad='areap(1.155,sdd)' 
+ as='areap(1.155,sdd)' pd='perip(1.155,sdd)' ps='perip(1.155,sdd)'
M_6_1 out in1 net_8 vdd p W='1.155*1u' L=lp_min ad='areap(1.155,sdd)' 
+ as='areap(1.155,sdd)' pd='perip(1.155,sdd)' ps='perip(1.155,sdd)'
M_7_1 out in1 net_6 vdd p W='1.155*1u' L=lp_min ad='areap(1.155,sdd)' 
+ as='areap(1.155,sdd)' pd='perip(1.155,sdd)' ps='perip(1.155,sdd)'
M_8_1 out in1 net_2 vdd p W='1.155*1u' L=lp_min ad='areap(1.155,sdd)' 
+ as='areap(1.155,sdd)' pd='perip(1.155,sdd)' ps='perip(1.155,sdd)'
M_9_1 net_7 in2 net_4 vdd p W='1.155*1u' L=lp_min ad='areap(1.155,sdd)' 
+ as='areap(1.155,sdd)' pd='perip(1.155,sdd)' ps='perip(1.155,sdd)'
M_10_1 net_8 in2 net_3 vdd p W='1.155*1u' L=lp_min ad='areap(1.155,sdd)' 
+ as='areap(1.155,sdd)' pd='perip(1.155,sdd)' ps='perip(1.155,sdd)'
M_11_1 net_6 in2 net_9 vdd p W='1.155*1u' L=lp_min ad='areap(1.155,sdd)' 
+ as='areap(1.155,sdd)' pd='perip(1.155,sdd)' ps='perip(1.155,sdd)'
M_12_1 net_2 in2 net_5 vdd p W='1.155*1u' L=lp_min ad='areap(1.155,sdd)' 
+ as='areap(1.155,sdd)' pd='perip(1.155,sdd)' ps='perip(1.155,sdd)'
M_13_1 net_5 in3 vdd vdd p W='1.155*1u' L=lp_min ad='areap(1.155,sdd)' 
+ as='areap(1.155,sdd)' pd='perip(1.155,sdd)' ps='perip(1.155,sdd)'
M_14_1 net_9 in3 vdd vdd p W='1.155*1u' L=lp_min ad='areap(1.155,sdd)' 
+ as='areap(1.155,sdd)' pd='perip(1.155,sdd)' ps='perip(1.155,sdd)'
M_15_1 net_3 in3 vdd vdd p W='1.155*1u' L=lp_min ad='areap(1.155,sdd)' 
+ as='areap(1.155,sdd)' pd='perip(1.155,sdd)' ps='perip(1.155,sdd)'
M_16_1 net_4 in3 vdd vdd p W='1.155*1u' L=lp_min ad='areap(1.155,sdd)' 
+ as='areap(1.155,sdd)' pd='perip(1.155,sdd)' ps='perip(1.155,sdd)'
*.ENDS	$ MMI_OAI31B

